US09102684B2
5-(3,5-Dimethyl-isoxazol-4-yl)-3-hydroxy-3-(2-morpholin-4-ylmethyl-phenyl)-1,3-dihydro-indol-2-one
5-(3,5-Dimethyl-isoxazol-4-yl)-1H-indole-2,3-dione (100 mg, 0.41 mmol) is dissolved in anhydrous THF (1 mL) and cooled to 0° C. (2-(4-Morpholinylmethyl)phenyl)magnesium bromide (4.0 mL, 1.0 mmol) is added dropwise and then the mixture stirred at room temperature for 2 hours. The mixture is poured onto saturated aqueous ammonium chloride solution. The aqueous phase is extracted with ethyl acetate. The organic phase is dried over magnesium sulfate. The solvent is concentrated to dryness and purified using column chromatography on silica gel using a cyclohexane/ethyl acetate gradient. The product fractions are combined and concentrated to dryness in vacuo.

reactant | 5-(3,5-Dimethyl-isoxazol-4-yl)-1H-indole-2,3-dione | 0.41 mmol, 100 mg | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)=O)C | C13H10N2O3
reactant | (2-(4-Morpholinylmethyl)phenyl)magnesium bromide | 1.0 mmol, 4.0 mL | N1(CCOCC1)CC1=C(C=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-3-hydroxy-3-(2-morpholin-4-ylmethyl-phenyl)-1,3-dihydro-indol-2-one | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)CN1CCOCC1)O)C | C24H25N3O4
